US05149717
a) (2S,3R)-2,3-epoxy-3-(3-methylphenyl)-propanal
The title compound is prepared analogously to Example 5a) from (2R,3R)-2,3-epoxy-3-(3-methylphenyl)-propanol; light-yellow oil. IR (methylene chloride): 2920, 2820, 1730, 1610, 1140, 1070 cm-1 ; Rf =0.49 (hexane/ethyl acetate 3:2).

reactant | (2R,3R)-2,3-epoxy-3-(3-methylphenyl)-propanol | O1[C@H](CO)[C@H]1C1=CC(=CC=C1)C | C10H12O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | (2S,3R)-2,3-epoxy-3-(3-methylphenyl)-propanal | O1[C@H](C=O)[C@H]1C1=CC(=CC=C1)C | C10H10O2
